US08003800B2
Sodium hydride (60% in petrolether, 404 mg, 10 mmol) is washed with dry pentane (3×10 mL), then dry THF (30 mL) is added and the suspension is cooled at 0° C. A solution of mercaptoacetic acid ethyl ester (0.445 mL, 4 mmol) in THF (4 mL) is slowly added. After stirring for 0.5 h at 0° C. a solution of trifluoromethanesulfonic acid 2-acetyl-1,4-dimethyl-penta-1,4-dienyl ester (1.16 g, 4 mmol) in THF (4 mL) is slowly added. The mixture is stirred at 0° C. for 0.5 h, then slowly warmed to rt during 15 h. The reaction mixture is partioned between H2O (75 mL) and DCM (100 mL), the aq. phase is basified with 1M aq. NaOH (50 mL) and extracted with DCM (50 mL). The combined organic extracts are dried (Na2SO4), filtered and evaporated. The crude product is purified by reversed phase MPLC (H2O-MeOH gradient) to give 450 mg of 3,5-dimethyl-4-(2-methyl-allyl)-thiophene-2-carboxylic acid ethyl ester; LC-MS: tR=1.10 min, [M+1]+=239.05.

reactant | Sodium hydride | 10 mmol, 404 mg | [H-].[Na+]
reactant | mercaptoacetic acid ethyl ester | 4 mmol, 0.445 mL | C(C)OC(CS)=O | C4H8O2S
reactant | trifluoromethanesulfonic acid 2-acetyl-1,4-dimethyl-penta-1,4-dienyl ester | 4 mmol, 1.16 g | C(C)(=O)C(=C(C)OS(=O)(=O)C(F)(F)F)CC(=C)C | C10H13F3O4S
reactant | NaOH | 1M, 50 mL | [OH-].[Na+]
solvent | pentane | 10 mL | CCCCC | C5H12
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 75 mL | O | H2O
product | 3,5-dimethyl-4-(2-methyl-allyl)-thiophene-2-carboxylic acid ethyl ester | 450 mg | C(C)OC(=O)C=1SC(=C(C1C)CC(=C)C)C | C13H18O2S
